US05025031
Sulfamic acid 4-(2H-1,2,4-triazol-2-yl)phenyl ester hydrochloride (2:1)
4-(1H-1,2,4-triazol-1-yl)phenol (5.0 g, 0.031 mole) was suspended in methylene chloride (30 ml) and sulfamoyl chloride (7.13 g, 0.062 mole) added to the stirring mixture. Triethylamine (6.27 g, 0.062 mole) was added dropwise while maintaining the temperature between 25°-30° C. After the addition was complete the reaction was stirred for several hours at room temperature. HPLC analysis indicated the reaction had not gone to completion. The reaction was treated with an additional 0.031 mole of sulfamoyl chloride and triethylamine. The reaction stirred overnight at room temperature and was worked up after 1H NMR indicated reaction had gone to completion. The solvent was evaporated and the residue partitioned between ethyl acetate/acetonitrile (1:1)/aqueous sodium hydroxide, sodium bicarbonate (1:1). The organic layer was evaporated and the base isolated as an off-white powder (4.78 g, 64%). The crystals were dissolved in hot isopropyl alcohol, the solution cooled and the mixture filtered. The filtrate containing the base was evaporated to a residue, dissolved in methanol and a solution of anhydrous HCl/isopropyl alcohol added. White crystals precipitated out of solution as more isopropyl alcohol was added and methanol removed. The crystals were filtered, dried and analyzed (0.80 g, 0.0029 mole, 9%, mp 169°-173° C.).

reactant | 4-(1H-1,2,4-triazol-1-yl)phenol | 0.031 mole, 5.0 g | N1(N=CN=C1)C1=CC=C(C=C1)O | C8H7N3O
reactant | sulfamoyl chloride | 0.062 mole, 7.13 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | Triethylamine | 0.062 mole, 6.27 g | C(C)N(CC)CC | C6H15N
reactant | sulfamoyl chloride | 0.031 mole | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Sulfamic acid 4-(2H-1,2,4-triazol-2-yl)phenyl ester hydrochloride | 4.78 g, 64% | Cl.N=1N(C=NC1)C1=CC=C(C=C1)OS(N)(=O)=O | InChI=1S/C8H8N4O3S.ClH/c9-16(13,14)15-8-3-1-7(2-4-8)12-6-10-5-11-12;/h1-6H,(H2,9,13,14);1H
